US08383644B2
(S)-3-(3-Bromo-4-{2-(tert-butyl-diphenyl-silanyloxy)-1-[4-(3,4-dichloro-benzyloxy)-phenyl]-ethoxy}-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester
2-(tert-Butyl-diphenyl-silanyloxy)-1-[4-(3,4-dichloro-benzyloxy)-phenyl]-ethanol (11.0 g), (S)-3-(3-bromo-4-hydroxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester (7.46 g), and triphenylphosphine (7.87 g) were dissolved in 75.0 mL of anhydrous DCM and the mixture cooled to 0° C. DIAD (5.85 mL) was added drop wise to the reaction mixture. After 1 h, the cooling bath was removed and the reaction stirred overnight. Concentration gave a dark orange oil which was purified by silica gel chromatography (ethyl acetate/hexanes) to obtain the desired product. LCMS: 910.

reactant | 2-(tert-Butyl-diphenyl-silanyloxy)-1-[4-(3,4-dichloro-benzyloxy)-phenyl]-ethanol | 11.0 g | C(C)(C)(C)[Si](OCC(O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H32Cl2O3Si
reactant | (S)-3-(3-bromo-4-hydroxy-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester | 7.46 g | COC([C@H](CC1=CC(=C(C=C1)O)Br)NC(=O)OC(C)(C)C)=O | C15H20BrNO5
reactant | triphenylphosphine | 7.87 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 5.85 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | DCM | 75.0 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(3-Bromo-4-{2-(tert-butyl-diphenyl-silanyloxy)-1-[4-(3,4-dichloro-benzyloxy)-phenyl]-ethoxy}-phenyl)-2-tert-butoxycarbonylamino-propionic acid methyl ester | COC([C@H](CC1=CC(=C(C=C1)OC(CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)Br)NC(=O)OC(C)(C)C)=O | C46H50BrCl2NO7Si
